US07674789B2
3-{8-(2,6-difluorophenyl)-2-[4-(4-morpholinyl)-1-piperidinyl]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-(1-methylethyl)benzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide (36 mg, 0.072 mmol) in THF (2 mL)/CHCl3 (2 mL) were added 4-(4-piperidinyl)morpholine (37 mg, 0.22 mmol) and N,N-diisopropylethylamine (0.1 mL, 0.5 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (41 mg, 94%). LC-MS m/z 607 (M+H)+; 1H-NMR (MeOD) δ 1.27 (d, 6H), 1.33 (m, 2H), 1.83 (d, 2H), 2.30 (s, 3H), 2.38 (m, 1H), 2.55 (m, 4H), 2.75 (t, 2H), 3.33 (m, 1H), 3.68 (m, 3H), 4.11 (s, 2H), 4.23 (m, 1H), 4.45 (m, 2H), 7.16 (t, 2H), 7.46 (d, 1H), 7.50 (m, 1H), 7.68 (s, 1H), 7.85 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 0.072 mmol, 36 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | CHCl3 | 2 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 4-(4-piperidinyl)morpholine | 0.22 mmol, 37 mg | N1CCC(CC1)N1CCOCC1 | C9H18N2O
reactant | N,N-diisopropylethylamine | 0.5 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-{8-(2,6-difluorophenyl)-2-[4-(4-morpholinyl)-1-piperidinyl]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-(1-methylethyl)benzamide | 41 mg, 94% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)N2CCC(CC2)N2CCOCC2)=O | C32H37F2N7O3
